US09102623B2
A1.4) N-Cyclobutyl-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide
600 mg (2.9 mmol) of 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylic acid were dissolved in 5 ml of tetrahydrofuran, 658 mg (4.1 mmol) of N,N-carbonyldiimidazole were added and the mixture was heated initially at room temperature for 30 min and then under reflux for 30 min. A solution of 247 mg (3.5 mmol) of cyclobutylamine in 5 ml tetrahydrofuran was then added dropwise, and the mixture was heated under reflux for a further 2 h. The solution was evaporated to dryness and then taken up in ethyl acetate, washed with 1 N hydrochloric acid and water, dried and concentrated. Purification by column chromatography gave 160 mg (19% of theory) of a light-brown powder.

reactant | 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylic acid | 2.9 mmol, 600 mg | O=C1NC(=CC=C1C(=O)O)C(F)(F)F | C7H4F3NO3
reactant | N,N-carbonyldiimidazole | 4.1 mmol, 658 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclobutylamine | 3.5 mmol, 247 mg | C1(CCC1)N | C4H9N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-Cyclobutyl-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide | C1(CCC1)NC(=O)C=1C(NC(=CC1)C(F)(F)F)=O | C11H11F3N2O2
